US06235944B1
A mixture containing 116.2 g (0.5 mol) of tri(2-butyl) orthoformate, 49.10 g (0.5 mol) of cyclohexanone and 3.7 g (0.05 mol) of 2-butanol was stirred at room temperature (25° C.) and 0.2 g (1 mmol) of reagent grade iron (III) chloride was added. The temperature of the reaction mixture rose to about 35° C. due to the exotherm and was heated and maintained at about at 50° C. until gas-chromatographic analysis indicated that the reaction was complete. After removing the by-products 2-butyl formate and 2-butanol by distillation under reduced pressure, the resulting residue was subsequently distilled to provide 1-(2-butoxy)-1-cyclohexene (bp 86° C. @2 mm Hg) as a colorless liquid; the yield was 89.4% with a purity exceeding 99%.

reactant | tri(2-butyl) orthoformate | 0.5 mol, 116.2 g | C(OC(C)CC)(OC(C)CC)OC(C)CC | C13H28O3
reactant | cyclohexanone | 0.5 mol, 49.10 g | C1(CCCCC1)=O | C6H10O
reactant | 2-butanol | 0.05 mol, 3.7 g | CC(CC)O | C4H10O
catalyst | iron (III) chloride | [Fe](Cl)(Cl)Cl
product | 1-(2-butoxy)-1-cyclohexene | yield was 89.4% | CC(CC)OC1=CCCCC1 | C10H18O
